US08334301B2
4-bromo-5-[(3-methoxyphenyl)thio]thiophene-2-carbaldehyde
To a solution of 4,5-dibromothiophene-2-carbaldehyde (1.0 g) in N,N-dimethylformamide (10 mL) were added potassium carbonate (665 mg) and 3-methoxybenzenethiol (571 mg) at room temperature. After stirring at room temperature overnight, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→7:1) to give the title compound as a pale-yellow crude oil (yield 1.30 g).

reactant | 4,5-dibromothiophene-2-carbaldehyde | 1.0 g | BrC=1C=C(SC1Br)C=O | C5H2Br2OS
reactant | potassium carbonate | 665 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxybenzenethiol | 571 mg | COC=1C=C(C=CC1)S | C7H8OS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-bromo-5-[(3-methoxyphenyl)thio]thiophene-2-carbaldehyde | BrC=1C=C(SC1SC1=CC(=CC=C1)OC)C=O | C12H9BrO2S2
